US05106871
Then, a liquid mixture of 1.45 g of 2'-hydroxy-4,4',6'-tris(methoxymethoxy)-3'-isopentylchalcone and 4 ml of a hydrochloric acid/methanol reagent was heated and refluxed for 10 minutes. The temperature of the reaction mixture was lowered to room temperature, and the reaction mixture was neutralized with a saturated aqueous solution of sodium bicarbonate, extracted with 500 ml of ethyl acetate, washed with water, shaken with a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and filtered. The solvent was removed from the filtrate by distillation and the obtained residue was subjected to the silica gel column chromatography (diameter=4.5 cm, 130 g of silica gel, 9.3 kg/cm2) using a mixed solvent of n-hexane and ethyl acetate (n-hexane/ethyl acetate=3/1). Fractions of 100 ml were collected, and the 42nd to 56th fractions were combined, and the solvent was removed by distillation and the residue was recrystallized from a mixed solvent of chloroform and methanol to obtain 620 mg (yield=59.3%) of 2' ,4,4',6'-tetrahydroxy-3'-isopentylchalcone in the form of a yellow prism.

reactant | 2'-hydroxy-4,4',6'-tris(methoxymethoxy)-3'-isopentylchalcone | 1.45 g | OC1=C(C(C=CC2=CC=C(C=C2)OCOC)=O)C(=CC(=C1CCC(C)C)OCOC)OCOC | C26H34O8
reactant | hydrochloric acid methanol | 4 ml | Cl.CO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2' ,4,4',6'-tetrahydroxy-3'-isopentylchalcone | 620 mg, yield=59.3% | OC1=C(C(C=CC2=CC=C(C=C2)O)=O)C(=CC(=C1CCC(C)C)O)O | C20H22O5
